US03981905
Methyl 2-(4-iodophenyl)propionate (2 g.), acet-p-chloroanilide (1.17 g.), potassium carbonate (0.62 g.) and copper powder (0.1 g.) were heated at 165°C. for 7.5 hours. The cooled solid was triturated with methylene chloride, filtered, and the filtrate evaporated to dryness. The residue was refluxed for 1.5 hours with ethanol (7 ml.) and 2.5N sodium hydroxide (14 ml.); ethanol was distilled in vacuo and the residue diluted with water, washed with ether and acidified with dilute hydrochloric acid. The resulting oil was isolated in ether and evaporated to dryness. The resulting gum was purified by preparative layer chromatography using 5% acetic acid/petroleum ether b.p. 62°-68°C. and eluting with ethyl acetate; recrystallization from benzene/petroleum ether b.p. 62°-68°C. and from petroleum ether b.p. 80°-100°C. gave 2-[4-(4-chloroanilino)-phenyl]propionic acid, m.p. 106-109°C.

reactant | Methyl 2-(4-iodophenyl)propionate | 2 g | IC1=CC=C(C=C1)C(C(=O)OC)C | C10H11IO2
reactant | acet-p-chloroanilide | 1.17 g | CC(=O)NC1=CC=C(C=C1)Cl | C8H8ClNO
reactant | potassium carbonate | 0.62 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.1 g | [Cu] | Cu
product | 2-[4-(4-chloroanilino)-phenyl]propionic acid | ClC1=CC=C(NC2=CC=C(C=C2)C(C(=O)O)C)C=C1 | C15H14ClNO2
